US08492582B2
N,N-Dimethylformamide (0.010 mL) and oxalyl chloride (0.21 mL) were sequentially added to a methylene chloride (3.0 mL) suspension of 2-(benzyloxy)-5-(piperidin-1-yl)benzoic acid (0.56 g), followed by stirring at room temperature for 1 hour and 20 minutes. Under ice-cooling, the reaction mixture was added to a solution mixture of 2-amino-4-chlorobenzonitrile (0.23 g) in methylene chloride (3.0 mL) and pyridine (0.30 mL), followed by stirring at room temperature for 2 hours and 30 minutes. The solvent was evaporated under reduced pressure, and a 10% aqueous solution of citric acid and chloroform were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 95-85% hexane/ethyl acetate] to obtain 2-(benzyloxy)-N-(5-chloro-2-cyanophenyl)-5-(piperidin-1-yl)benzamide as a yellow solid.

reactant | N,N-Dimethylformamide | 0.010 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.21 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(benzyloxy)-5-(piperidin-1-yl)benzoic acid | 0.56 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)N1CCCCC1 | C19H21NO3
reactant | 2-amino-4-chlorobenzonitrile | 0.23 g | NC1=C(C#N)C=CC(=C1)Cl | C7H5ClN2
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.30 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
product | 2-(benzyloxy)-N-(5-chloro-2-cyanophenyl)-5-(piperidin-1-yl)benzamide | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C=CC(=C2)Cl)C#N)C=C(C=C1)N1CCCCC1 | C26H24ClN3O2
